US05891889
Step C: Preparation of 4-(3-methylphenylamino)isonipecotamide hydrochloride salt
A mixture of 1-benzyl-4-(3-methylphenylamino)-isonipecotamide (0.42 g, 1.3 mmol) and 10% palladium on charcoal (0.88 g) in a mixture of ethanol (40 mL) and ethanol saturated with anhydrous hydrochloride gas (10 mL) was shaken in a Parr hydrogenator at 60 psi for 48 h. The resultant mixture was filtered through a plug of Celite, and the filtrate concentrated to provide the title compound.

reactant | 1-benzyl-4-(3-methylphenylamino)-isonipecotamide | 1.3 mmol, 0.42 g | C(C1=CC=CC=C1)N1CCC(C(=O)N)(CC1)NC1=CC(=CC=C1)C | C20H25N3O
reactant | hydrochloride | 10 mL | Cl | ClH
catalyst | palladium on charcoal | 0.88 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-(3-methylphenylamino)isonipecotamide hydrochloride salt | Cl.CC=1C=C(C=CC1)NC1(CCNCC1)C(=O)N | InChI=1S/C13H19N3O.ClH/c1-10-3-2-4-11(9-10)16-13(12(14)17)5-7-15-8-6-13;/h2-4,9,15-16H,5-8H2,1H3,(H2,14,17);1H
